US08258144B2
1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-fluoropyrimidin-4-yl)piperidine-3-carboxamide
A mixture of 2,4-dichloro-5-fluoropyrimidine (167 mg, 1.00 mmol), nipecotamide (128 mg, 1.00 mmol) and DEA (0.350 mL, 2.01 mmol) in CH3CN (4 mL) was stirred at room temperature for 20 h. It was concentrated in vacuo. The residue was dissolved in nBuOH (4 mL). 2 mL of the nBuOH solution was taken, to which 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone (150 mg, 0.68 mmol) was added. The solution was stirred at 116° C. for 6 h. nBuOH was removed in vacuo. The residue was purified by HPLC to give the titled compound (75 mg). MS 442.4 (M+H); UV 208.8, 261.8 nm.

reactant | 2,4-dichloro-5-fluoropyrimidine | 1.00 mmol, 167 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | nipecotamide | 1.00 mmol, 128 mg | N1CC(C(=O)N)CCC1 | C6H12N2O
reactant | 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone | 0.68 mmol, 150 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C12H17N3O
reactant | nBuOH | C(CCC)O | C4H10O
solvent | CH3CN | 4 mL | CC#N | C2H3N
product | 1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-fluoropyrimidin-4-yl)piperidine-3-carboxamide | 75 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N1CC(CCC1)C(=O)N)F | C22H28FN7O2
